US05242925
A suspension of 3.8 g of 6-[4-(4-(5-nitroindol-3-yl)butyl)piperazino]-1,4-benzodioxane in 45 ml of methanol is hydrogenated with stirring on 0.1% Pd-C at 20° and 1 bar until absorption of H2 is complete. The mixture is poured into ice-water, worked up in the conventional manner and gives 6-[4-(4-(5-aminoindol-3-yl)butyl)piperazino]-1,4-benzodioxane.

reactant | 6-[4-(4-(5-nitroindol-3-yl)butyl)piperazino]-1,4-benzodioxane | 3.8 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C1=CC2=C(OCCO2)C=C1 | C24H28N4O4
solvent | methanol | 45 ml | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | 6-[4-(4-(5-aminoindol-3-yl)butyl)piperazino]-1,4-benzodioxane | NC=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C1=CC2=C(OCCO2)C=C1 | C24H30N4O2
